US05157026
Step 2: 6-Chloro-8-propylpurine
To a solution of 4,5-diamino-6-chloropyrimidine (0.289 g, 2 mmol) in 2-methoxyethanol (10 ml) were added trimethylorthobutyrate (0.5 ml, 3 mmol) and p-toluenesulfonic acid (0.03 g), and the mixture was refluxed for 18 hours and then concentrated in vacuo. The residue was partitioned between water and and ethylacetate. The organic phase was then washed with brine and dried (MgSO4). The crude product obtained after evaporation of the solvent was purified by flash column chromatography on silica-gel using ethylacetate/hexane (1:1). The fractions containing pure product were pooled and concentrated in vacuo, and then allowed to stand at room temperature overnight. The crystalline product was filtered and dried.

reactant | 4,5-diamino-6-chloropyrimidine | 2 mmol, 0.289 g | NC1=NC=NC(=C1N)Cl | C4H5ClN4
reactant | trimethylorthobutyrate | 3 mmol, 0.5 ml | COC(CCC)(OC)OC | C7H16O3
reactant | p-toluenesulfonic acid | 0.03 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 2-methoxyethanol | 10 ml | COCCO | C3H8O2
product | 6-Chloro-8-propylpurine | ClC1=C2NC(=NC2=NC=N1)CCC | C8H9ClN4
